US04713109
To 450 ml (22.5 mol) of hydrogen fluoride in a stainless steel reaction vessel are added at a temperature of -5° to -1° , 163 g (1.0 mol) of 3-amino-2,5-dichloropyridine. Then there are added while stirring at the same temperature 82.8 g (1.2 mol) of sodium nitrite into the solution. The reaction mixture is stirred for 1.5 hours at -5° to -1°, then the temperature is slowly raised to +60° C. After the evolution of gas has ceased, the hydrogen fluoride is distilled off and the residue is taken up in methylene chloride. Ice/water is then added thereto and the cold mixture is neutralized with concentrated ammonium hydroxide solution. The organic phase separated and the water phase is extracted three times with methylene chloride. The organic phases are washed with water, dried over magnesium sulfate, filtered through silica-gel and evaporated. Thus, 141.5 g (85% of the theory) of 2,5-dichloro-3-fluoropyridine are obtained.

reactant | hydrogen fluoride | 22.5 mol, 450 ml | F | FH
reactant | 3-amino-2,5-dichloropyridine | 1.0 mol, 163 g | NC=1C(=NC=C(C1)Cl)Cl | C5H4Cl2N2
reactant | sodium nitrite | 1.2 mol, 82.8 g | N(=O)[O-].[Na+]
product | 2,5-dichloro-3-fluoropyridine | ClC1=NC=C(C=C1F)Cl | C5H2Cl2FN
